Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Electrical injury
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This patient is a ___ year old male who complains of electrical 
injury. The patient was working with a 277-volt pulse service, 
and holding what he thought was a guidewire. He accidentally 
touched ground, and felt our collectors he running from his left 
hand to his right hand. He developed tetany, and needed a 
coworker to separate him from the current. EMS was activated, 
and found that the patient had a small burn on a left finger. 
The patient is also complaining
of some tongue numbness. He denies any chest pain or shortness 
of breath.
 
Past Medical History:
Depression
HLD
Sarcoidosis
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Admission Physical Exam:
VS: 125/68  73  18  98.5  99%@RA
Constitutional: No acute distress, pleasant and interactive
HEENT: Normocephalic, atraumatic, pupils equal, round and
reactive to light, extraocular muscles intact
Chest: Clear to auscultation
Cardiovascular: Regular rate and rhythm, S1 S2
Abdominal: Soft, Nontender, nondistended
GU/Flank: No costovertebral angle tenderness
Extremities: no edema, no cyanosis or clubbing
Skin: very small area of a third-degree burn over the volar
surface of the ring finger proximal phalanx.

Discharge Physical Exam:
VS: 97.5, 62, 152/82, 16, 95 % RA
Constitutional: No acute distress
HEENT: Normocephalic, atraumatic, pupils equal, round and
reactive to light, extraocular muscles intact
Chest: Clear to auscultation
Cardiovascular: Regular rate and rhythm, S1 S2
Abdominal: Soft, Nontender, nondistended
GU/Flank: No costovertebral angle tenderness
Extremities: No edema, no cyanosis or clubbing

 
Pertinent Results:
___ 07:18PM   CK(CPK)-___*
___ 07:18PM   CK-MB-3
___ 02:00PM   CK(CPK)-473*
___ 02:00PM   CK-MB-4
___ 07:35AM   GLUCOSE-123* LACTATE-1.8 NA+-138 K+-4.0 
CL--103 TCO2-26
___ 07:30AM   UREA N-15 CREAT-1.2
___ 07:30AM   estGFR-Using this
___ 07:30AM   CK(CPK)-566*
___ 07:30AM   LIPASE-21
___ 07:30AM   cTropnT-<0.01
___ 07:30AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:30AM   WBC-7.7 RBC-4.72 HGB-13.4* HCT-39.6* MCV-84 
MCH-28.4 MCHC-33.8 RDW-12.5 RDWSD-37.6
___ 07:30AM   PLT COUNT-160
___ 07:30AM   ___ PTT-29.4 ___
___ 07:30AM   ___

Radiology:
Chest X-ray
IMPRESSION: 
 
No evidence of acute traumatic injury within the limits of plain 
radiography.
 
Brief Hospital Course:
Upon arrival, the patient was evaluated in the emergency 
department where his vital signs were obtained sequentially and 
his heart rate and oxygen saturations continuously monitored for 
hemodynamic stability. Intravenous fluids were initiated and 
blood samples obtained including serial CK samples, which 
trended downward from 566 to 360. An EKG was obtained which show 
no concerning abnormalities and a chest radiograph was cleared 
of any acute intrathoracic process. The patient's urine output 
was also monitored. After admission to the floor the patient was 
placed on telemetry and observed overnight. There were no 
concerning signs or symptoms noted during his hospitalization. 
After completing a tertiary survey without any additional 
findings the patient was discharged home with instructions to 
follow up with his primary care provider within two to four 
weeks for a general and neurocognitive evaluation.      

 
Medications on Admission:
Atorvastatin
Lexapro
 
Discharge Medications:
Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Electrical injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ after 
sustaining an electrical shock injury. We evaluated your 
injuries, conducted the appropriate tests, and monitored your 
symptoms. You have been doing well and are now prepared to 
continue your recovery at home. Please review the following 
information:

Follow-up care is a key part of your treatment and safety. Be 
sure to make and go to all appointments, and call your doctor or 
nurse call line if you are having problems. It's also a good 
idea to know your test results and keep a list of the medicines 
you take.

 
How can you care for yourself at home?

If you have a mild burn:
Clean the area each day with mild soap and water.
Bandage the wound. If the doctor told you to use an ointment 
under the bandage, use it exactly as directed. 
Cover the burn with a non-stick gauze pad. 
Tape the pad to your skin, well away from the burn, or follow 
other dressing instructions, as your doctor advises. 
Do not wrap tape all the way around a hand, arm, or leg. This 
can cause swelling. 
Keep the bandage clean and dry. Change the bandage 2 times a day 
and anytime it gets wet. 

Do not break blisters open. This increases the chance of 
infection. If a blister breaks open by itself, blot up the 
liquid, and leave the skin that covered the blister. This helps 
protect the new skin. 

For pain and itching:
Take an over-the-counter pain medicine, such as acetaminophen 
(Tylenol), ibuprofen (Advil, Motrin), or naproxen (Aleve). Read 
and follow all instructions on the label. Do not use aspirin, 
because it can make bleeding in the burned area worse.
Do not take two or more pain medicines at the same time unless 
the doctor told you to. ___ pain medicines have acetaminophen, 
which is Tylenol. Too much acetaminophen (Tylenol) can be 
harmful. 
If the burn itches, do not scratch it. Try an over-the-counter 
antihistamine, such as diphenhydramine (Benadryl) or loratadine 
(Claritin). Read and follow all instructions on the label. 

Preventing electrical shocks at home
Place plug covers on all outlets.
Use extra caution when using electrical items in areas where 
water sources are nearby, such as using a hair dryer in the 
washroom. 
Do not overload electrical outlets by using too ___ extension 
cords or electrical receptacle multipliers. 
Replace electrical equipment and appliances that show signs of 
wear, such as having frayed or loose wires.

 
When should you call for help?

Call ___ anytime you think you may need emergency care. For 
example, call if:

You passed out (lost consciousness).

Call your doctor or nurse call line now or seek immediate 
medical care if:
You have symptoms of infection, such as:
Increased pain, swelling, warmth, or redness.
Red streaks leading from the area.
Pus draining from the area.
A fever. 
You have a hard time breathing.
You have new or worse pain in the burn area.
Your urine looks pink or brown.
Your muscles ache or feel weak.

Watch closely for changes in your health, and be sure to contact 
your doctor or nurse call line if you have any problems.

 
Followup Instructions:
___